US07960377B2
To a suspension of 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonitrile (30 mg, 0.081 mmol) in toluene (2 mL) was added 1,2-diamino-2-methylpropane (200 μL, 1.908 mmol) and sulfur (20.84 mg, 0.081 mmol). The reaction was heated to 95° C. and stirred at that temperature for 2 h. The reaction mixture was load directly onto a silica gel column and was purified by flash column chromatography using a gradient elution of hexanes with 20-100% EtOAc to provide 7-(4,4-dimethyl-4,5-dihydro-1H-imidazol-2-yl)-1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine (12 mg, 0.026 mmol, 31.9% yield) as an off white solid. LCMS (+ESI) m/z=441.1 [M+H]+; 1H-NMR (CDCl3) δ 8.54 (d, 1H), 8.50 (d, 1H), 7.81 (d, 2H), 7.76 (d, 2H), 3.94 (dd, 2H), 3.87 (dd, 2H), 3.57 (br s, 2H), 1.37 (s, 6H).

reactant | 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonitrile | 0.081 mmol, 30 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C#N)(F)F | C15H10F3N3O3S
reactant | 1,2-diamino-2-methylpropane | 1.908 mmol, 200 μL | NCC(C)(C)N | C4H12N2
reactant | sulfur | 0.081 mmol, 20.84 mg | [S] | S
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 7-(4,4-dimethyl-4,5-dihydro-1H-imidazol-2-yl)-1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine | 0.026 mmol, 12 mg, 31.9% yield | CC1(N=C(NC1)C1=CC2=C(OCCN2S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)N=C1)C | C19H19F3N4O3S
